US04335127
A mixture of 7.5 parts of 3-(2-chloroethyl)-2,4(1H,3H)-quinazolinedione, 6.8 parts of 6-fluoro-3-(4-piperidinyl)-1H-indole, 10 parts of sodium carbonate, 0.1 parts of potassium iodide and 240 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. Water is added and the layers are separated. The aqueous phase is set aside. The organic phase is dried, filtered and evaporated. The solid residue is boiled in 2-propanol. The product is filtered off and dried, yielding a first fraction of 4 parts of 3-[2-[4-(6-fluoro-1H-indol-3-yl)-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione. From the aqueous phase (see above), a solid product is filtered off and boiled in 2-propanol. The product is filtered off and dried, yielding a second fraction of 3 parts of 3-[2-[4-(6-fluoro-1H-indol-3-yl)-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione; mp. 300.6° C.

reactant | 3-(2-chloroethyl)-2,4(1H,3H)-quinazolinedione | ClCCN1C(NC2=CC=CC=C2C1=O)=O | C10H9ClN2O2
reactant | 6-fluoro-3-(4-piperidinyl)-1H-indole | FC1=CC=C2C(=CNC2=C1)C1CCNCC1 | C13H15FN2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | Water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 3-[2-[4-(6-fluoro-1H-indol-3-yl)-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione | FC1=CC=C2C(=CNC2=C1)C1CCN(CC1)CCN1C(NC2=CC=CC=C2C1=O)=O | C23H23FN4O2
